US03992370
In 20 ml. of liquid ammonia is suspended 1.824 g. of 1,1-dichloro-1a,10b-dihydrodibenzo(b,f)cycloprop(d)azepine-6(1H)-carboxaldehyde, and while the suspension is stirred at -40° to -50° C,0.69 g. of small pieces of sodium metal are added. The system is stirred atthe same temperature for 1 hour, after which time 1.5 g. of ammonia chloride is added. The liquid ammonia is distilled off and 20 ml. of wateris added. The mixture is extracted three times with 20 ml. portions of benzene and the extracts are washed with water and dried. The benzene extracts are passed over a column packed with silica gel and then adsorbedmaterial is eluted by means of a mixed solvent of benzenecyclohexane (6:4).The eluate is concentrated, whereby 0.658 g. (53 %) of 1,1a,6,10b-tetrahydrodibenzo(b,f)cycloprop(d)azepine is obtained.

reactant | ammonia | N | H3N
reactant | 1,1-dichloro-1a,10b-dihydrodibenzo(b,f)cycloprop(d)azepine-6(1H)-carboxaldehyde | ClC1(C2C3=C(N(C4=C(C21)C=CC=C4)C=O)C=CC=C3)Cl | C16H11Cl2NO
reactant | sodium | [Na] | Na
reactant | ammonia chloride | [Cl-].N
product | 1,1a,6,10b-tetrahydrodibenzo(b,f)cycloprop(d)azepine | 53 % | C1C2C3=C(NC4=C(C21)C=CC=C4)C=CC=C3 | C15H13N
